US07834205B2
39.1 mL of TIBA/isododecane solution (90 g/L) were mixed with 7.4 mL of MAO/toluene solution (Albemarle 30% wt/wt, d=0.928 g/mL, 35.5 mmol MAO) to obtain a MAO/TIBA molar ratio of 2:1. The solution was stirred for 1 h at room temperature and transferred into a 50 mL Schlenk flask containing compound C-1 (55.8 mg, 88.7 μmol). The resulting mixture was diluted with 9.8 mL of isododecane to give a cloudy orange solution. Final concentration: 100 gTOT/L and 0.99 gmetallocene/L.

reactant | TIBA isododecane | 39.1 mL | C1=C(C=C(C(=C1I)I)C(=O)O)I.CCCCCCCCCC(C)C
reactant | toluene | 35.5 mmol | C1(=CC=CC=C1)C | C7H8
product | TIBA | C1=C(C=C(C(=C1I)I)C(=O)O)I | C7H3I3O2
